US07816557B2
2-Bromo-5-hydroxy-benzaldehyde O-tert-butyl-oxime
To the solution of 2-bromo-5-hydroxy-benzaldehyde (402 mg, 2 mmol) in methanol (10 ml) is added O-tert-butyl-hydroxylamine hydrochloride (125 mg, 10 mmol). The mixture is stirred at room temperature overnight. The resulting mixture is diluted with ethyl acetate, washed with brine, dried over MgSO4, and evaporated to afford the titled compound (360 mg) as colorless oil.

reactant | 2-bromo-5-hydroxy-benzaldehyde | 2 mmol, 402 mg | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | O-tert-butyl-hydroxylamine hydrochloride | 10 mmol, 125 mg | Cl.C(C)(C)(C)ON
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-5-hydroxy-benzaldehyde O-tert-butyl-oxime | 360 mg | C(C)(C)(C)ON=CC1=C(C=CC(=C1)O)Br | C11H14BrNO2
